US07601744B2
1-[(1R)-3-chloro-1-(3-chloro-5-fluorophenyl)propyl]-3-isopropyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (1.75 g, 4.19 mmol) and ethanolic solution of methylamine (33% in ethanol, 30 mL) was heated at 85° C for 4 hours with stirring in a sealed reaction vessel. Upon cooling, all volatiles were removed under reduced pressure. The resulting residue was dissolved in dichloromethane (50 mL), washed with aqueous potassium carbonate (20 mL), dried (anhydrous sodium sulfate), and concentrated. Purification by Isco CombiFlash Companion column chromatography (silica gel, 0-15% methanol/dichloromethane, with 0.5% triethylamine additive) gave 1.22 g (70%) of (3R)-3-(3-chloro-5-fluorophenyl)-3-(3-isopropyl-2,2-dioxido-2,1,3-benzothia diazol-1(3H)-yl)-N-methylpropan-1-amine as a white foam, which was dissolved in dichloromethane (20 mL) and treated with an ethereal solution of hydrochloric acid (1 M, 3.3 mL, 3.3 mmol). To the resulting solution was added hexane until white powder formed, which was collected, washed with hexane, and dried in vacuo to yield (3R)-3-(3-chloro-5-fluorophenyl)-3-(3-isopropyl-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl)-N-methylpropan-1-amine hydrochloride as a white powder. MS (ES) m/z 411.9 ([M+H]30 ); HRMS: calculated for C19H23CIFN3O2S+H+, 412.1256; found (ESI, [M+H]30), 412.1266.

reactant | 1-[(1R)-3-chloro-1-(3-chloro-5-fluorophenyl)propyl]-3-isopropyl-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 4.19 mmol, 1.75 g | ClCC[C@H](C1=CC(=CC(=C1)F)Cl)N1S(N(C2=C1C=CC=C2)C(C)C)(=O)=O | C18H19Cl2FN2O2S
reactant | methylamine | 30 mL | CN | CH5N
product | (3R)-3-(3-chloro-5-fluorophenyl)-3-(3-isopropyl-2,2-dioxido-2,1,3-benzothia diazol-1(3H)-yl)-N-methylpropan-1-amine | 1.22 g, 70% | ClC=1C=C(C=C(C1)F)[C@@H](CCNC)N1S(N(C2=C1C=CC=C2)C(C)C)(=O)=O | C19H23ClFN3O2S
